US09102621B2
2-Isopropoxypyrimidin-5-ol
An aqueous solution (5 mL) of potassium peroxymonosulfate (1.40 g, 2.27 mmol) was added dropwise to a solution of 2-isopropoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine (Preparation 100, 500 mg, 1.89 mmol) in acetone (5 ml) under a nitrogen atmosphere at 0° C. The mixture was stirred at room temperature for 2 hours, then filtered, the filtrate diluted with water (30 mL) and extracted with EtOAc (1×20 mL). The organic layer was washed with brine (2×20 mL), dried over sodium sulfate, filtered and evaporated in vacuo. The resulting oil was dissolved in dichloromethane and purified by silica gel chromatography eluting with 0 to 5% MeOH (with 10% aqueous ammonia) in dichloromethane to yield a solid. The solid was suspended in diethyl ether and evaporated to yield the title compound as a white solid (100 mg, 34%):

reactant | potassium peroxymonosulfate | 2.27 mmol, 5 mL, 1.40 g | S(=O)(=O)(O[O-])[O-].[K+].[K+]
reactant | 2-isopropoxy-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)pyrimidine | 1.89 mmol, 500 mg | C(C)(C)OC1=NC=C(C=N1)B1OC(C(O1)(C)C)(C)C | C13H21BN2O3
solvent | acetone | 5 ml | CC(=O)C | C3H6O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 2-Isopropoxypyrimidin-5-ol | 100 mg, 34% | C(C)(C)OC1=NC=C(C=N1)O | C7H10N2O2
